US04870064
Jones reagent (e.g. an aqueous sulfuric acid solution of chromium trioxide) was added to a solution of 3-chloro-4,5-dipropargyloxybenzaldehyde (18.0 g) in acetone (100 ml) under stirring at a temperature below 20° C. The addition was stopped when the reaction mixture became red, and stirring was continued at 20° C. for 1 hour. The reaction mixture was poured into ice-water containing ethanol (100 nl) and extracted with ethyl acetate. The extract was washed with water, dried over magnesium sulfate and concentrated under reduced pressure. The residue was washed with hexane to give 3-chloro-4,5-dipropargyloxybenzoic acid (16.2 g). m.p. 158°-159° C.

reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | 3-chloro-4,5-dipropargyloxybenzaldehyde | 18.0 g | ClC=1C=C(C=O)C=C(C1OCC#C)OCC#C | C13H9ClO3
reactant | ethanol | 100 nl | C(C)O | C2H6O
solvent | acetone | 100 ml | CC(=O)C | C3H6O
catalyst | chromium trioxide | [O-2].[O-2].[O-2].[Cr+6]
product | 3-chloro-4,5-dipropargyloxybenzoic acid | 16.2 g | ClC=1C=C(C(=O)O)C=C(C1OCC#C)OCC#C | C13H9ClO4
